US07049310B2
b) 4-Fluoro-3-(methylaminomethyl)-1H-indole
According to the procedure of Preparation 13 (c),except substituting 4-fluoro-1H-indole-3-carboxaldehyde for the 1,3-dimethyl-1H-indole-2-carboxaldehyde, the title compound was prepared as a viscous oil: MS (ES) m/e 179 (M+H)+.

reactant | 4-fluoro-1H-indole-3-carboxaldehyde | FC1=C2C(=CNC2=CC=C1)C=O | C9H6FNO
reactant | 1,3-dimethyl-1H-indole-2-carboxaldehyde | CN1C(=C(C2=CC=CC=C12)C)C=O | C11H11NO
product | 4-Fluoro-3-(methylaminomethyl)-1H-indole | FC1=C2C(=CNC2=CC=C1)CNC | C10H11FN2
